US09403806B1
Methyl 6-methylpiperidine-3-carboxylate (14):
Methyl 6-methylnicotinate (4.9 g, 32.4 mmol) was combined with 10% Pd/C (wet, 2.5 g), methanol (40 mL) and acetic acid (50 mL) and hydrogenated at 40° C., (50 psi) for 15 hours. The mixture was filtered through a pad of Celite, washed with methanol, and concentrated under reduced pressure. The residue was co-evaporated with 80 mL of toluene and then with 50 mL of methanol. The residue was partitioned between 40 mL of dichloromethane and 20 mL of saturated K2CO3. The aqueous layer was extracted with dichloromethane and the combined organics dried with anhydrous K2CO3. The solution was concentrated and died under vacuum to 5.0 g of pale yellow oil. The cis/trans product mixture was not well separated by TLC (Rf=0.55 and 0.57, CH2Cl2:MeOH:NH4OH, 90:9:1). The crude product mixture was taken directly to the next step.

reactant | Methyl 6-methylnicotinate | 32.4 mmol, 4.9 g | CC1=NC=C(C(=O)OC)C=C1 | C8H9NO2
reactant | methanol | 40 mL | CO | CH4O
catalyst | Pd/C | 2.5 g | [Pd] | Pd
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
product | Methyl 6-methylpiperidine-3-carboxylate | CC1CCC(CN1)C(=O)OC | C8H15NO2
